US07294636B2
Step 2: Preparation of (4R,5S)-1-[(R)-3-(4-methanesulfonyl-phenyl)-3-thiophen-2-yl-propionyl]-3,4-dimethyl-5-phenyl-imidazolidin-2-one
Copper (I) iodide (1.3 g, 6.89 mmol) was suspended in tetrahydrofuran (10 mL) under argon and TMEDA (1.14 mL, 7.58 mmol) was added as a single portion. After stirring for 10 min the solution was cooled to −78° C. and 4-thioanisyl phenylmagnesium bromide (14 mL, 6.89 mmol) was added dropwise. The resulting solution was then stirred for a further 30 min at −78° C. To this mixture was then added slowly a mixture of (4S,5R)-1,5-dimethyl-4-phenyl-3-(3-thiophen-2-yl-acryloyl)-imidazolidin-2-one (1.13 g) and dibutylboron triflate (4.2 mL, 4.14 mmol) in tetrahydrofuran (10 mL) at −78° C. and then the resulting mixture was stirred and allowed to warm to room temperature overnight. The reaction was then quenched with saturated aqueous ammonium chloride and washed with concentrated tetrasodium EDTA solution. The organics were then separated, concentrated and redissolved in ethyl acetate (100 mL). meta-Chloroperbenzoic acid (1.7 g, 6.9 mmol) was added as a single portion and the solution stirred for 2 h. This was then quenched with 2M aqueous sodium hydroxide solution and the resulting precipitate collected by filtration. This gave the sub-titled compound (1.06 g, 64%) as a white solid; NMR (CDCl3): 0.80 (d, 3H), 2.83 (s, 3H), 3.00 (s, 3H), 3.72 (dd, 1H), 3.85 (m, 1H), 4.05 (dd, 1H), 4.95 (t, 1H), 5.22 (d, 1H), 6.90 (m, 3H), 7.21 (m, 5H), 7.44 (d, 2H), 7.79 (d, 2H); LCMS: 483 (MH+).

reactant | TMEDA | 7.58 mmol, 1.14 mL | CN(C)CCN(C)C | C6H16N2
reactant | 4-thioanisyl phenylmagnesium bromide | 6.89 mmol, 14 mL | C(C1=CC=C(C=C1)SC)[Mg]C1=CC=CC=C1.[Br-]
reactant | (4S,5R)-1,5-dimethyl-4-phenyl-3-(3-thiophen-2-yl-acryloyl)-imidazolidin-2-one | 1.13 g | CN1C(N([C@H]([C@H]1C)C1=CC=CC=C1)C(C=CC=1SC=CC1)=O)=O | C18H18N2O2S
reactant | dibutylboron triflate | 4.14 mmol, 4.2 mL | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
reactant | meta-Chloroperbenzoic acid | 6.9 mmol, 1.7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | Copper (I) iodide | 6.89 mmol, 1.3 g | [Cu]I
product | (4R,5S)-1-[(R)-3-(4-methanesulfonyl-phenyl)-3-thiophen-2-yl-propionyl]-3,4-dimethyl-5-phenyl-imidazolidin-2-one | 1.06 g, 64% | CS(=O)(=O)C1=CC=C(C=C1)[C@@H](CC(=O)N1C(N([C@@H]([C@@H]1C1=CC=CC=C1)C)C)=O)C=1SC=CC1 | C25H26N2O4S2
